US09056859B2
Step B: (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetic acid
tert-Butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate (1.2 g, 4.8 mmol) was dissolved in TFA and stirred at room temperature for one h. The reaction mixture was concentrated and pumped under vacuum overnight to afford the title compound. LC-MS (IE, m/z): 193.2 [M+1]+.

reactant | tert-Butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate | 4.8 mmol, 1.2 g | O=C1OCC2=C1C=CC(=C2)CC(=O)OC(C)(C)C | C14H16O4
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetic acid | O=C1OCC2=C1C=CC(=C2)CC(=O)O | C10H8O4
